US04983395
A pindolol-enhancer gel formulation is prepared by mixing adequate quantities of pindolol HCl and Klucel HF® with a mixture consisting of 50%/39%/10%/1% (volume percent) ethanol/water/glycerine/glycerol monooleate to provide a gel with a final pindolol concentration of 65 mg/cc and Klucel level of 1.5% (wt/wt).

reactant | pindolol HCl | CC(C)NCC(COC1=CC=CC2=C1C=CN2)O.Cl
reactant | ethanol water glycerine glycerol monooleate | C(C)O.O.OCC(O)CO.C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)CO
product | pindolol | CC(C)NCC(COC=1C=CC=C2C1C=CN2)O | C14H20N2O2
